US06608203B2
2,2,2-Trifluoro-1-[4-(6-methoxy-3,4-dihydro-isoquinolin-1-yl)-piperidin-1-yl]-ethanone
A stirred solution of 1-trifluoroacetyl-piperidine-4-carboxylic acid [2-(3-methoxy-phenyl)-ethyl]-amide (1.04 g, 2.9 mmol) in POCl3 under an atmosphere of N2 was heated at reflux for 2.5 hours. The reaction was allowed to cool to RT and the POCl3 was removed in vacuo. The residual oil was suspended in toluene (20 ml) and concentrated in vacuo (this process was repeated twice more), leaving the desired product as a tan colored solid (0.872 g, 2.56 mmol, 88% yield). MS 341 (M+1)

reactant | 1-trifluoroacetyl-piperidine-4-carboxylic acid [2-(3-methoxy-phenyl)-ethyl]-amide | 2.9 mmol, 1.04 g | COC=1C=C(C=CC1)CCNC(=O)C1CCN(CC1)C(C(F)(F)F)=O | C17H21F3N2O3
solvent | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 2,2,2-Trifluoro-1-[4-(6-methoxy-3,4-dihydro-isoquinolin-1-yl)-piperidin-1-yl]-ethanone | 2.56 mmol, 0.872 g, 88% yield | FC(C(=O)N1CCC(CC1)C1=NCCC2=CC(=CC=C12)OC)(F)F | C17H19F3N2O2
